US07157476B2
3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetic acid:
Methyl 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetate (0.5 g, 1.3 mmol) was dissolved in methanol, and 2N NaoH (3 mL) added. The reaction was stirred at 60° C. for 2 h, then the solution was adjusted to pH 6.5, the product was extracted into ethyl acetate and the organic phase was dried by MgSO4. Removal of solvent revealed 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetic acid (0.30 g). 1H NMR (500 MHz, CDCl3) δ 1.02 (m, 2H), 1.25 (m, 2H), 1.55 (m, 2H), 1.65 (m, 2H), 2.57 (m, 2H), 3.33 (m, 1H), 3.75 (s, 2H), 3.95 (m, 2H), 6.63 (m, 3H), 6.98 (m, 1H).

reactant | Methyl 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetate | 1.3 mmol, 0.5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CCCOC=1C=C(C=CC1)CC(=O)OC | C22H33NO5
solvent | methanol | CO | CH4O
product | 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetic acid | C(=O)(OC(C)(C)C)N1CCC(CC1)CCCOC=1C=C(C=CC1)CC(=O)O | C21H31NO5
